US07579359B2
The method of Part B of Example 25 was followed using O-isopropylhydroxylamine hydrochloride (2.4 g, 21 mmol) in lieu of O-methylhydroxylamine hydrochloride to treat N-(4-chloroquinolin-3-yl)pentanamide (4.5 g, 17 mmol) with the modification that the reaction was heated at reflux overnight. 2-Butyl-1-isopropoxy-1H-imidazo[4,5-c]quinoline (3.5 g) was obtained as a dark oil.

reactant | O-isopropylhydroxylamine hydrochloride | 21 mmol, 2.4 g | Cl.C(C)(C)ON
reactant | O-methylhydroxylamine hydrochloride | Cl.CON
reactant | N-(4-chloroquinolin-3-yl)pentanamide | 17 mmol, 4.5 g | ClC1=C(C=NC2=CC=CC=C12)NC(CCCC)=O | C14H15ClN2O
product | 2-Butyl-1-isopropoxy-1H-imidazo[4,5-c]quinoline | 3.5 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)OC(C)C | C17H21N3O
